US06022492
Synthesis of 5-bromo-2-(6-octyloxypyridin-3-yl)pyrimidine
A reaction of 115 mmol of 2,5-dibromopyrimidine, 115 mmol of 2-butoxypyrdine-5-boronic acid, 230 mmol of sodium carbonate and 1.2 mmol of tetrakis(triphenylphosphine)palladium(0) in 280 ml of toluene, 140 ml of ethanol and 140 ml of water is carried out analogously to the procedure indicated for precursor 3. Corresponding purification gives 15.9 g (38%) of a colorless solid, m.p. 99-101 ° C.

reactant | 2,5-dibromopyrimidine | 115 mmol | BrC1=NC=C(C=N1)Br | C4H2Br2N2
reactant | 2-butoxypyrdine-5-boronic acid | 115 mmol | C(CCC)OC1=NC=C(C=C1)B(O)O | C9H14BNO3
reactant | sodium carbonate | 230 mmol | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 280 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 140 ml | C(C)O | C2H6O
solvent | water | 140 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.2 mmol | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-bromo-2-(6-octyloxypyridin-3-yl)pyrimidine | 15.9 g, 38% | BrC=1C=NC(=NC1)C=1C=NC(=CC1)OCCCCCCCC | C17H22BrN3O
